US07087605B2
2-tert-Butyl-7-cyclopentyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one
In analogy to the procedure for Example 1, 150 mg (0.50 mmol) crude N-[1-(3-tert-butyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclopentanecarboxamide, 80 mg (0.50 mmol) phosphoric trichloride are stirred at reflux for 3 hours, proportionate amounts of the solvents are used.

reactant | N-[1-(3-tert-butyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclopentanecarboxamide | 0.50 mmol, 150 mg | C(C)(C)(C)C1=NN=C(C(N1)=O)C(CC)NC(=O)C1CCCC1 | C16H26N4O2
reactant | phosphoric trichloride | 0.50 mmol, 80 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-tert-Butyl-7-cyclopentyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | C(C)(C)(C)C1=NN2C(C(N1)=O)=C(N=C2C2CCCC2)CC | C16H24N4O
